US07541478B2
2-Fluoro-5-nitro-4-(trifluoromethyl)phenol
A 1N solution of boron tribromide in dichloromethane (15 ml) was added dropwise to a solution of 1-fluoro-2-methoxy-4-nitro-5-(trifluoromethyl)benzene obtained in Reference Example 16 (1.4 g) in dichloromethane (5 ml) with ice-cooling. After stirring at room temperature overnight, water and 1N hydrochloric acid was added to the reaction mixture. After stirring for 30 minutes, an organic layer was separated, washed with water, dried over magnesium sulfate, and concentrated. The residue was purified by column chromatography (developing solvent:ethyl acetate-hexane=1:3) to obtain the title compound as crystals (0.5 g, 38%).

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 1-fluoro-2-methoxy-4-nitro-5-(trifluoromethyl)benzene | FC1=C(C=C(C(=C1)C(F)(F)F)[N+](=O)[O-])OC | C8H5F4NO3
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-Fluoro-5-nitro-4-(trifluoromethyl)phenol | 0.5 g, 38% | FC1=C(C=C(C(=C1)C(F)(F)F)[N+](=O)[O-])O | C7H3F4NO3
